US08809342B2
Step F: (+/−)-6-[(cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methyl)amino]nicotinic acid
A mixture of the (+/−)-methyl 6-[(cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methyl)amino]nicotinate (486 mg, 1.03 mmol) was dissolved in methanol (2.1 ml) and tetrahydrofuran (1.0 ml) and treated with aqueous lithium hydroxide (1.0 ml, 2.1 mmol, 2.0M). The reaction was heated to 50° C. for 12 hours. The mixture was concentrated in vacuo, and the residue was diluted with water and acidified with aqueous 1.0M hydrochloric acid. The mixture was then concentrated in vacuo a second time, and the crude residue was used directly for further transformations.

reactant | (+/−)-methyl 6-[(cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methyl)amino]nicotinate | 1.03 mmol, 486 mg | C1(CCCCC1)C(C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)OC)C=C1 | C25H25F3N4O2
reactant | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 2.1 mmol, 2.0M, 1.0 ml | [OH-].[Li+]
solvent | methanol | 2.1 ml | CO | CH4O
product | (+/−)-6-[(cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methyl)amino]nicotinic acid | C1(CCCCC1)C(C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)O)C=C1 | C24H23F3N4O2
